US06660753B2
A solution of 4-(3-cyanophenyl)-1-trityl-1H-imidazole (0.07 g, 0.17 mmol) in tetrahydrofuran (1.36 mL) was treated with 2N hydrochloric acid (0.68 mL) and the resulting mixture was heated at reflux for 45 minutes. After cooling the reaction mixture was concentrated in vacuo and the residue dissolved in dichloromethane (20 mL). The organic phase was successively washed with 1N sodium hydroxide (10 mL), water (20 mL) and brine (20 mL). The organic solution was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography of the residues using 3% methanol in dichloromethane afforded 0.02 g (72%) of 4-(3-cyanophenyl)imidazole as a white solid.

reactant | 4-(3-cyanophenyl)-1-trityl-1H-imidazole | 0.17 mmol, 0.07 g | C(#N)C=1C=C(C=CC1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H21N3
reactant | hydrochloric acid | 2N, 0.68 mL | Cl | ClH
solvent | tetrahydrofuran | 1.36 mL | O1CCCC1 | C4H8O
product | 4-(3-cyanophenyl)imidazole | 0.02 g, 72% | C(#N)C=1C=C(C=CC1)C=1N=CNC1 | C10H7N3
